US06096898
A. Ethyl 3-chloro-2,4-dioxovalerate
A solution of sulfuryl chloride (7.08 g, 52 mmol) in 15 mL of CH2Cl2 was added dropwise to a solution of ethyl 2,4-dioxovalerate (7.91 g, 40 mmol) in 125 ml of CH2Cl2 at room temperature. After three hours TLC analysis indicated that all of the starting material had been consumed. The reaction mixture was washed with H2O (2×100 mL), dried over anhydrous MgSO4, filtered and concentrated in vacuo to give 7.84 g (81% yield) of the desired product as and orange oil: 1H NMR (CDCl3) 67 14.4 (bs, 1H), 5.4 (s, 1H), 4.4-4.3 (m, 4H), 2.5 (s, 3H), 2.4 (s, 3H), 1.4-1.35 (s, 6H) for a 1:1 mixture of tautomers.

reactant | sulfuryl chloride | 52 mmol, 7.08 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 2,4-dioxovalerate | 40 mmol, 7.91 g | O=C(C(=O)OCC)CC(C)=O | C7H10O4
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 3-chloro-2,4-dioxovalerate | 7.84 g, 81% yield | ClC(C(C(=O)OCC)=O)C(C)=O | C7H9ClO4
